US07750034B2
Step A: 5-Benzoyl-5,6-dihydro-4H-furo[3,4-c]pyrrole
To a solution of benzamide (1.38 g) in N,N-dimethylformamide (40 mL) at 0° C., sodium hydride (1.37 g, 60%) was added. The mixture was stirred at ambient temperature for 10 min followed by addition of 3,4-bis(chloromethyl)furan (1.88 g). The resulting mixture was stirred for two days, diluted with ice-water (50 mL) and extracted with ethyl acetate (3×20 mL). The combine organic layers were dried over anhydrous sodium sulfate, filtered and evaporated and purified on a Biotage Horizon® system (silica, ethyl acetate/hexane 40/60) to yield the title compound.

reactant | benzamide | 1.38 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | sodium hydride | 1.37 g | [H-].[Na+]
reactant | 3,4-bis(chloromethyl)furan | 1.88 g | ClCC1=COC=C1CCl | C6H6Cl2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 5-Benzoyl-5,6-dihydro-4H-furo[3,4-c]pyrrole | C(C1=CC=CC=C1)(=O)N1CC=2C(C1)=COC2 | C13H11NO2
